US07384936B2
(+)-5,6-dihydro-5-[(1-piperidinyl)methyl]-3-(1-oxido-3-pyridyl)-4H-1,2,4-oxadiazine
6.25 g (24 mmol) of (−)-5,6-dihydro-5-(1-piperidinyl)-methyl-3-(3-pyridyl)4H-1,2,4-oxadiazine is dissolved in a mixture of 40 ml of water, 6.85 ml (120 mmol) of glacial acetic acid and 1.43 ml (24 mmol) of cc. H2SO4. The solution is heated to 60° C., and at this temperature 12 ml (75 mmol) of 21.5% hydrogen peroxide is added dropwise, and the reaction mixture is kept on stirring at this temperature. After 10 hours to the reaction mixture further 6 ml of 21.5% hydrogen peroxide is added dropwise. After another 20 hours the reaction mixture is cooled to 0° C., and it is introduced dropwise into 60 ml of 0° C. 20% NaOH, then extracted 5 times with 50 ml of dichloromethane. The combined organic phases are washed with water, dried over magnesium-sulfate and evaporated. The evaporation residue is purified by column chromatography. The suitable fractions are triturated with 20 ml of acetone and kept in refrigerator overnight. Next day the product is filtered, washed with cold acetone and dried, then recrystallized from ethanol-ethylacetate.

reactant | (−)-5,6-dihydro-5-(1-piperidinyl)-methyl-3-(3-pyridyl)4H-1,2,4-oxadiazine | 24 mmol, 6.25 g | N1(CCCCC1)C1N(C(=NOC1)C=1C=NC=CC1)C | C14H20N4O
reactant | acetic acid | 120 mmol, 6.85 ml | C(C)(=O)O | C2H4O2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | hydrogen peroxide | 75 mmol, 12 ml | OO | H2O2
reactant | hydrogen peroxide | 6 ml | OO | H2O2
reactant | water | 40 ml | O | H2O
product | (+)-5,6-dihydro-5-[(1-piperidinyl)methyl]-3-(1-oxido-3-pyridyl)-4H-1,2,4-oxadiazine | N1(CCCCC1)CC1NC(=NOC1)C=1C=[N+](C=CC1)[O-] | C14H20N4O2
